US07572809B2
a) Preparation of 3-(4-Fluoro-3-methoxy-phenyl)-acrylic acid
A mixture of 4-Fluoro-3-methoxy-benzaldehyde (6.16 g, 40 mmol), and malonic acid (6.24 g, 60 mmol) in pyridine (30 ml) and piperidine (1 ml) was heated at 120° C. for 2 hrs. The mixture was cooled to room temperature and neutralized with concentrated HCl to PH<3, the white solid was collected and dried to give 7.6 g of product (97% yield). LC-MS: m/e 195 (M−1)

reactant | 4-Fluoro-3-methoxy-benzaldehyde | 40 mmol, 6.16 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | malonic acid | 60 mmol, 6.24 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | HCl | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 1 ml | N1CCCCC1 | C5H11N
product | 3-(4-Fluoro-3-methoxy-phenyl)-acrylic acid | 7.6 g, 97% yield | FC1=C(C=C(C=C1)C=CC(=O)O)OC | C10H9FO3
